US07786155B2
Synthesis in analogy to Example 6 starting from 3-[2-(4-amino-phenyl)-2-oxo-ethyl]-2-methyl-5,5-diphenyl-3,5-dihydro-imidazol-4-one and 1-isocyanato-4-nitro-benzene to yield 1-{4-[2-(2-methyl-5-oxo-4,4-diphenyl-4,5-dihydro-imidazol-1-yl)-acetyl]-phenyl}-3-(4-nitro-phenyl)-urea. LC/MS at 254 nm; [M+H] 548; Rt 3.601 min.

reactant | 3-[2-(4-amino-phenyl)-2-oxo-ethyl]-2-methyl-5,5-diphenyl-3,5-dihydro-imidazol-4-one | NC1=CC=C(C=C1)C(CN1C(=NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C24H21N3O2
reactant | 1-isocyanato-4-nitro-benzene | N(=C=O)C1=CC=C(C=C1)[N+](=O)[O-] | C7H4N2O3
product | 1-{4-[2-(2-methyl-5-oxo-4,4-diphenyl-4,5-dihydro-imidazol-1-yl)-acetyl]-phenyl}-3-(4-nitro-phenyl)-urea | CC=1N(C(C(N1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC(=O)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C31H25N5O5
